US05032594
1-Butyl-1,2,3,4,6,7-hexahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione
Boron tribromide (0.35 ml) was added to a stirred suspension of 3-benzyl-1-butyl-1,2,3,4,6,7-hexahydroimidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine2,4-dione (0.5 g) at room temperature. The reaction mixture was refluxed for 19 hours and there was cooled to room temperature, followed by addition of methanol (5 ml). The mixture was stirred for a while, then concentrated to dryness. The residue was dissolved in ethyl acetate, washed with water, dried and concentrated to give crude crystals, followed by recrystallization from ethyl acetate/hexane to afford colorless crystals (0.1 g, 27%), m.p. 239°-240° C.

reactant | Boron tribromide | 0.35 ml | B(Br)(Br)Br | BBr3
reactant | 3-benzyl-1-butyl-1,2,3,4,6,7-hexahydroimidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine2,4-dione | 0.5 g | C(C1=CC=CC=C1)N1C(N(C=2C(C1=O)=C1N(N2)CCN1)CCCC)=O | C18H21N5O2
solvent | methanol | 5 ml | CO | CH4O
product | 1-Butyl-1,2,3,4,6,7-hexahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione | 0.1 g, 27% | C(CCC)N1C(NC(C=2C1=NN1C2NCC1)=O)=O | C11H15N5O2
